US07407963B2
3,4-dihydro-6-[(1,3-dioxolan-2-yl)methoxy]-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone
0.36 g (14.25 mmol) of 95% sodium hydride was added batchwise, with stirring, to a solution of 5.0 g (14.82 mmol) of 3,4-dihydro-6-hydroxy-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone in 120 mL of anhydrous dimethylformamide at ambient temperature and the mixture was then kept for 15 minutes at 50° C. A thick, colorless slurry was formed. After the addition of 5.0 g (37.04 mmol) of 2-(bromomethyl)-1,3-dioxolane the mixture was heated to 90° C. for 90 minutes. After cooling, the mixture was stirred into saturated aqueous saline solution and extracted exhaustively with ethyl acetate. The combined extracts were dried over sodium sulfate and evaporated down in vacuo, the residue remaining was purified by column chromatography on silica gel (30-60 μm) using dichloromethane/EE/cyclohexane/methanol/concentrated ammonia 60/16/5/5/0.6 v/v/v/v/v as eluant. Working up the corresponding fractions yielded 2.5 g (41% of theoretical) of a colorless oil, Rf=0.47 (dichloromethane/EE/cyclohexane/methanol/concentrated ammonia 60/16/5/5/0.6 v/v/v/v/v). IR (KBr): 1662 (C═O) cm−1.

reactant | sodium hydride | 14.25 mmol, 0.36 g | [H-].[Na+]
reactant | 3,4-dihydro-6-hydroxy-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone | 14.82 mmol, 5.0 g | OC=1C=C2CN(C(NC2=CC1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C20H23N3O2
reactant | 2-(bromomethyl)-1,3-dioxolane | 37.04 mmol, 5.0 g | BrCC1OCCO1 | C4H7BrO2
reactant | KBr | [K+].[Br-]
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 3,4-dihydro-6-[(1,3-dioxolan-2-yl)methoxy]-3-(1-phenylmethyl-4-piperidinyl)-2(1H)-quinazolinone | O1C(OCC1)COC=1C=C2CN(C(NC2=CC1)=O)C1CCN(CC1)CC1=CC=CC=C1 | C24H29N3O4
